US07674804B2
Step 1: 4-(2,6-Dichloro-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-amino-piperidine-1-carboxylic acid tert-butyl ester (4.0 g, 20.0 mmol, 1.3 equiv) in dry DMF (100 mL) under Ar was added sodium hydride (1.01 g, 23.1 mmol, 1.5 equiv; 55% free-flowing powder moistened with oil) and the reaction mixture stirred at rt. After 2 h, 2,4,6-trichloro-pyrimidine (2.82 g, 15.4 mmol, 1.0 equiv; commercially available) was added and the mixture stirred at rt for 48 h. The solvent was removed under reduced pressure and the crude reaction product extracted from a solution of 1 M NaOH (100 mL) with ethyl acetate (3×100 mL). The combined organic phases were dried over MgSO4, concentrated by evaporation under reduced pressure and the crude material purified with silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate to provide 3.1 g (57%) of the title compound. 1H NMR (400 MHz, DMSO): δ 1.24-1.33 (m, 2H), 1.40 (s, 9H), 1.78-1.85 (m, 2H), 2.86-2.96 (m, 2H), 3.49-3.97 (m, 3H), 6.47 (s, 1H). MS (ISP): 347.3 [M+H]+.

reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 20.0 mmol, 4.0 g, 1.3 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | sodium hydride | 23.1 mmol, 1.01 g, 1.5 equiv | [H-].[Na+]
reactant | 2,4,6-trichloro-pyrimidine | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(2,6-Dichloro-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 3.1 g, 57% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC(=C1)Cl)Cl | C14H20Cl2N4O2
